2
* Second circuit to test the program.
* Circuit with only resistors and sources

* .IMPRIMIR no1

.tran 5e-3 1e-4 BE 50

V1 1 0 PULSE( -5 5 0 0.1e-6 0.1e-6 2e-4 4e-4 10)
R1 1 2 1e3
R2 2 0 1e3
